US05258529
33.26 of 2,3-dichloro-1-propene were added dropwise to a mixture of 20.00 g of acetophenone, 40 g of ethylene dichloride, 60 g of 5% acetic acid and 19.52 g of zinc powder at 50° C., and the resultant mixture was allowed to react at the same temperature for 10 hours. After the reaction was completed, zinc-derived insolubles were filtered off, and the resultant filtrate was separated. The organic phase was washed with 7% sodium carbonate aqueous solution and dried over magnesium sulfate. The desiccant was filtered off, and the ethylene dichloride was distilled off under reduced pressure. The resultant oily substance was purified by silica gel column chromatography to give 22.24 g of 2-chloro-4-phenyl-1-penten-4-ol; nD25 =1.536, FI-MS m/e 178(M-H2O+), 180 (M-H2O+2+).

reactant | 2,3-dichloro-1-propene | ClC(=C)CCl | C3H4Cl2
reactant | acetophenone | 20.00 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | ethylene dichloride | 40 g | C(CCl)Cl | C2H4Cl2
catalyst | zinc | 19.52 g | [Zn] | Zn
solvent | acetic acid | 60 g | C(C)(=O)O | C2H4O2
product | 2-chloro-4-phenyl-1-penten-4-ol | 22.24 g | ClC(=C)CC(C)(O)C1=CC=CC=C1 | C11H13ClO
